US08685974B2
To a solution of 4-methyl-2-(methylsulfanyl)pyrimidine (1 eq, 235 mmol) and ethyl 5-chlorothiophene-2-carboxylate (1.11 eq, 261 mmol) in anhydrous THF (400 mL) at 0° C., under N2 was added dropwise a solution of lithium bis(trimethylsilyl)amide (1M solution in hexanes, 1.6 eq, 376 mmol). The resulting mixture was stirred for 3 h at 0° C. and then stirred at room temperature overnight. A solution of HCl 1M (750 mL) was then added till pH=1. The aqueous layer was extracted with ethyl acetate and the combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated. The residue was diluted with diisopropylether and the resulting precipitate was filtered and to afford 29.5 g (43% yield) of 1-(5-chloro-2-thienyl)-2-[2-(methylsulfanyl)pyrimidin-4-yl]ethanone.

reactant | 4-methyl-2-(methylsulfanyl)pyrimidine | 235 mmol, 1 eq | CC1=NC(=NC=C1)SC | C6H8N2S
reactant | ethyl 5-chlorothiophene-2-carboxylate | 261 mmol, 1.11 eq | ClC1=CC=C(S1)C(=O)OCC | C7H7ClO2S
reactant | lithium bis(trimethylsilyl)amide | 376 mmol, 1M, 1.6 eq | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | HCl | 1M, 750 mL | Cl | ClH
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 1-(5-chloro-2-thienyl)-2-[2-(methylsulfanyl)pyrimidin-4-yl]ethanone | 29.5 g, 43% yield | ClC1=CC=C(S1)C(CC1=NC(=NC=C1)SC)=O | C11H9ClN2OS2
